US07666878B2
To a solution of [1-(3,4-dichloro-benzyl)-1H-pyrrolo[2,3-b]pyridine-3-yl]-acetic acid methyl ester (23 mg, 0.066 mmol) in MeOH (0.5 mL), is added 4N NaOH (0.25 mL). The reaction mixture is stirred at 25° C. for 5 minutes. The reaction mixture is evaporated in vacuo, to remove MeOH then cooled in an ice bath and acidified with concentrated HCl. The resultant solid is collected by filtration and triturated in CHCl3 to afford [1-(3,4-dichloro-benzyl)-1H-pyrrolo[2,3-b]pyridine-3-yl]-acetic acid; MH+=335.

reactant | [1-(3,4-dichloro-benzyl)-1H-pyrrolo[2,3-b]pyridine-3-yl]-acetic acid methyl ester | 0.066 mmol, 23 mg | COC(CC1=CN(C2=NC=CC=C21)CC2=CC(=C(C=C2)Cl)Cl)=O | C17H14Cl2N2O2
reactant | NaOH | 4N, 0.25 mL | [OH-].[Na+]
solvent | MeOH | 0.5 mL | CO | CH4O
product | [1-(3,4-dichloro-benzyl)-1H-pyrrolo[2,3-b]pyridine-3-yl]-acetic acid | ClC=1C=C(CN2C=C(C=3C2=NC=CC3)CC(=O)O)C=CC1Cl | C16H12Cl2N2O2
